US06518423B1
Methyl 4-[1-(benzyloxycarbonyl)piperidin-4-yloxy]phenylacetate
1-(Benzyloxycarbonyl)piperidin-4-ol and methyl 4-hydroxyphenylacetate were treated in the same manner as the one of Production Example 65 to thereby give the title compound as a pale green powder.

reactant | 1-(Benzyloxycarbonyl)piperidin-4-ol | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)O | C13H17NO3
reactant | methyl 4-hydroxyphenylacetate | OC1=CC=C(C=C1)CC(=O)OC | C9H10O3
product | Methyl 4-[1-(benzyloxycarbonyl)piperidin-4-yloxy]phenylacetate | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)CC(=O)OC | C22H25NO5
